US04109006
3-Ethoxycarbonyl-2-methyl-5,6-dihydro-1,4-dithiin (10.0 g.) is heated at reflux for eight hours in a solution of potassium hydroxide (85%; 3.60 g.) in methanol (40 ml.). The cool solution is acidified wth 10% aqueous hydrochloric acid and the precipitate is removed by filtration and dried (8.1 g.). The crude product is recrystallized from ethanol to afford 2-carboxy-3-methyl-5,6-dihydro-1,4-dithiin, m.p. 179°-180° C., dec.

reactant | 3-Ethoxycarbonyl-2-methyl-5,6-dihydro-1,4-dithiin | 10.0 g | C(C)OC(=O)C1=C(SCCS1)C | C8H12O2S2
reactant | potassium hydroxide | 3.60 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 2-carboxy-3-methyl-5,6-dihydro-1,4-dithiin | C(=O)(O)C=1SCCSC1C | C6H8O2S2
